US04387105
A solution of 1.56 g. of phenyl chloroformate in 50 ml. of ether is added dropwise to a stirred solution of 3.44 g. of 3-bromoaniline in 35 ml. of ether and the mixture is stirred for one hour at room temperature and then filtered. The filtrate is evaporated and the residue is crystallized from hexane to yield phenyl N-(3-bromophenyl)carbamate, m.p. 88°-90° C.

reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 3-bromoaniline | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | ether | CCOCC | C4H10O
product | phenyl N-(3-bromophenyl)carbamate | BrC=1C=C(C=CC1)NC(OC1=CC=CC=C1)=O | C13H10BrNO2
